US04001262
To a suspension of this reagent in 10 ml. of dimethylformamide was added 3.00 mmol of 8-bromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. The mixture was heated to 80° for a total of 24 hours, then quenched in cold water, neutralized with a 10% aqueous sodium hydroxide solution and extracted with chloroform. The chloroform layer was washed with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to an oil, which was chromatographed over 100 g. of silica gel by eluting with 3% methanol/97% chloroform mixtures. The product was collected and crystallized from ethyl acetate to yield 1-(dimethylamino)methyl-8-bromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 163.5°- 165° C.

reactant | 8-bromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 3.00 mmol | BrC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=NC=CC=C3)C1 | C15H10BrN5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(dimethylamino)methyl-8-bromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(C)CC1=NN=C2N1C1=C(C(=NC2)C2=NC=CC=C2)C=C(C=C1)Br | C18H17BrN6
